US04315926
The starting material is prepared as follows: To the solution of 1,082 g of isopropylamine in 2,000 ml of methylene chloride and 3,250 ml of water, that of 1,300 g of o-fluorobenzoyl chloride in 2,600 ml of methylene chloride is added during 2 hours while stirring at 2°-9°. Stirring is continued at room temperature overnight, the organic layer is separated and the aqueous phase extracted with 1,000 ml of methylene chloride. The combined organic solutions are dried, evaporated and the residue recrystallized from 1,000 ml of hexane, to yield the N-isopropyl-o-fluorobenzamide melting at 76°-78°.

reactant | isopropylamine | 1,082 g | C(C)(C)N | C3H9N
reactant | o-fluorobenzoyl chloride | 1,300 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | methylene chloride | 2,000 ml | C(Cl)Cl | CH2Cl2
solvent | water | 3,250 ml | O | H2O
solvent | methylene chloride | 2,600 ml | C(Cl)Cl | CH2Cl2
product | N-isopropyl-o-fluorobenzamide | C(C)(C)NC(C1=C(C=CC=C1)F)=O | C10H12FNO
